US05789409
Using 2.4 g of 4-bromomethylphenylacetic acid, 2.9 g of 1-[(4-chlorophenyl)phenylmethyl]piperazine, 2.8 ml of triethylamine, and 100 ml of dioxane, the reaction procedure of Example 1 was otherwise repeated and recrystallized from benzene-hexane to provide 1.8 g of methyl 4-[[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]methyl]phenylacetate melting at 113° C.-115° C.

reactant | 4-bromomethylphenylacetic acid | 2.4 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | 1-[(4-chlorophenyl)phenylmethyl]piperazine | 2.9 g | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 4-[[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]methyl]phenylacetate | 1.8 g | ClC1=CC=C(C=C1)C(N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C27H29ClN2O2
